US05770731
(4-nitro-benzyl) tert-butyl-di-phenyl-silyl ether (13).
To a stirred solution of 4-nitrobenzyl alcohol, 12, (1.00 g, 6.50 mmol), and imidazole (0.97 g, 14.1 mmol) in DMF (10.0 ml), was added tert-butyl-diphenyl-chlorosilane (1.98 g, 7.20 mmol) over 10 min under N2 at room temperature. The reaction mixture was stirred for an additional 5 h, diluted with Et2O (75 ml), washed with H2O (5×15 ml), dried (MgSO4) and evaporated to dryness under vacuum. An oil was obtained which crystallised on standing and was recrystallised to a solid from EtOH (70%); yield: 2.36 g (93%). vmax /cm-1 (film): 2931, 2857 (CH2, asym., sym.), 1521, 1345 (NO2); 1H-NMR, dH : 1.06(9H, s, t-Bu), 4.92 (2H, s, CH2), 7.42-7.46 (5H, m, Ph), 7.63-7.65 (7H, m, Ph+Harom2+6), 8.23 (2H, d, J=8.23, Harom3+5); MS, (EI), (391.54); m/z: 334 (M - t-Bu, 100), 288 (M - t-Bu - NO2, 10), 256 (M - t-Bu - Ph, 20), 199 (Ph2SiOH+, 100); C23H25NO3Si.

reactant | 4-nitrobenzyl alcohol | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | imidazole | 14.1 mmol, 0.97 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-diphenyl-chlorosilane | 7.20 mmol, 1.98 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 75 ml | CCOCC | C4H10O
product | (4-nitro-benzyl) tert-butyl-di-phenyl-silyl ether | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H25NO3Si
